US05837673
1-(5'-Hydroxy-2'-nitrophenyl)-2-propen-1-ol (2.0 g) is dissolved in dry DMF (100 ml) and thereto are added sodium iodide (1 equivalent), potassium carbonate and 3-t-butoxycarbonylaminopropyl tosylate (1.5 equivalent). The mixture is stirred at 50° C. for 6 hours, and thereto is added ethyl acetate. The mixture is washed with a saturated sodium chloride solution and dried over sodium sulfate. The residue is purified by silica gel column chromatography to give 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-ol (3.53 g) as a pale brown caramel.

reactant | 1-(5'-Hydroxy-2'-nitrophenyl)-2-propen-1-ol | 2.0 g | OC=1C=CC(=C(C1)C(C=C)O)[N+](=O)[O-] | C9H9NO4
reactant | sodium iodide | 1 equivalent | [I-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-t-butoxycarbonylaminopropyl tosylate | 1.5 equivalent | S(=O)(=O)(OCCCNC(=O)OC(C)(C)C)C1=CC=C(C)C=C1 | C15H23NO5S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-ol | 3.53 g, Yield: 98% | C(C)(C)(C)OC(=O)NCCCOC=1C=CC(=C(C1)C(C=C)O)[N+](=O)[O-] | C17H24N2O6
